US07378415B2
To a solution of 4-[4-benzenesulfonyl-2-(2-chloro-ethoxy)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.175 g, 0.354 mmol) in 0.500 mL anhydrous DMF was added sodium iodide (2.0 mg, cat) followed by sodium hydride (17 mg. of a 60% dispersion in mineral oil, 0.424 mmol) in 3 portions. The reaction mixture was stirred at room temperature for 2 hours, added to 50 mL water, and then extracted twice with 50 mL ethyl acetate. The organic fraction was washed with 50 mL brine, dried over sodium sulfate, then concentrated in vacuo. The resulting crude oil was purified by flash chromatography (10%-40% ethyl acetate in hexanes) to give 0.111 g (0.242 mmol, 68%) of 4-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-[4-benzenesulfonyl-2-(2-chloro-ethoxy)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.354 mmol, 0.175 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)OCCCl | C24H31ClN2O5S
reactant | sodium iodide | 2.0 mg | [I-].[Na+]
reactant | sodium hydride | [H-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 0.500 mL | CN(C)C=O | C3H7NO
product | 4-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.242 mmol, 0.111 g, 68% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCOC2=C1C=CC(=C2)S(=O)(=O)C2=CC=CC=C2 | C24H30N2O5S
